US07241798B2
Mixture of diastereomers, one being (1R,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol
The HCl salt of the starting material Intermediate 28, mixture of diastereomers (1R,2S)-3-Benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol (1.2 g, 4.1 mmol), was combined with palladium on carbon 20% (Pearlman's catalyst, 0.7 g) and MeOH (35 mL) and hydrogenated at 40 psi for 16 hours. The material was filtered thru celite and concentrated to yield the title compounds as a mixture of diastereomers (0.88 g, quantitative yield).

reactant | HCl | Cl | ClH
reactant | (1R,2S)-3-Benzyl-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol | 4.1 mmol, 1.2 g | C(C1=CC=CC=C1)N1[C@H]([C@]2(CC2C1)O)C1=CC=CC=C1 | C18H19NO
catalyst | palladium on carbon | 0.7 g | [Pd] | Pd
solvent | MeOH | 35 mL | CO | CH4O
product | (1R,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hexan-1-ol | quantitative yield | C1(=CC=CC=C1)[C@H]1[C@]2(CC2CN1)O | C11H13NO
